US07850947B2
C. Preparation of DO3A monoamide
8.0 equivalents of DOTA mono acid was dissolved in NMP and treated with 8.0 equivalents of HBTU and 16.0 equivalents of DIEA. This solution was stirred for 15 min at RT and then transferred to the amine on the resin and the coupling was continued for 24 h at RT. The resin was then drained, washed and then the peptide was cleaved and purified.

reactant | DOTA | 8.0 equivalents | C1CN(CCN(CCN(CCN1CC(=O)O)CC(=O)O)CC(=O)O)CC(=O)O | C16H28N4O8
reactant | HBTU | 8.0 equivalents | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 16.0 equivalents | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | CN1CCCC1=O | C5H9NO
product | DO3A | C1CN(CCN(CCN(CCN1)CC(=O)O)CC(=O)O)CC(=O)O | C14H26N4O6
